US08383652B2
268 mg (6.7 mmol) of sodium hydroxide are added to a solution of 284 mg (0.67 mmol) of ethyl 2-[1-[3′-(1-methyl-3-pentylureido)biphenyl-4-yl]meth-(E)-ylidene]butyrate in 10 mL of ethanol. The reaction mixture is heated at 50° C. for 15 hours. The reaction medium is evaporated to dryness, taken up in water, acidified with 2 N hydrochloric acid solution and extracted with ethyl acetate. The organic phases are combined, washed with water and dried over magnesium sulfate. After filtration, the solvent is evaporated off and the solid obtained is taken up in ethyl ether, filtered off and dried. 222 mg (84%) of 2-[1-[3′-(1-methyl-3-pentylureido)biphenyl-4-yl]meth-(E)-ylidene]butyric acid are obtained in the form of a white powder with a melting point of 150-152° C.

reactant | sodium hydroxide | 6.7 mmol, 268 mg | [OH-].[Na+]
reactant | ethyl 2-[1-[3′-(1-methyl-3-pentylureido)biphenyl-4-yl]meth-(E)-ylidene]butyrate | 0.67 mmol, 284 mg | CN(C(=O)NCCCCC)C=1C=C(C=CC1)C1=CC=C(C=C1)\C=C(\C(=O)OCC)/CC | C26H34N2O3
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-[1-[3′-(1-methyl-3-pentylureido)biphenyl-4-yl]meth-(E)-ylidene]butyric acid | 222 mg, 84% | CN(C(=O)NCCCCC)C=1C=C(C=CC1)C1=CC=C(C=C1)\C=C(\C(=O)O)/CC | C24H30N2O3
